US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (240 mg, 0.834 mmol), 1-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.760 mmol) and diisopropylethylamine (0.265 ml, 1.52 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 14 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (115 mg, 37.8%) as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.834 mmol, 240 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 1-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine | 0.760 mmol, 200 mg | FC1=C(C=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H14FN3S
reactant | diisopropylethylamine | 1.52 mmol, 0.265 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxamide | 115 mg, 37.8% | CC1=NOC(=C1C)NC(=O)N1CCN(CC1)C=1SC=C(N1)C1=C(C=CC=C1)F | C19H20FN5O2S
